US08629157B2
Synthesis of (2S,4R)-4-tert-Butoxy-1-(4-chloro-phenyl)-pyrrolidine-2-carboxylic acid [3-(2-hydroxy-1,1-dimethyl-ethyl)-isoxazol-5-yl]-amide
A solution of (2S,4R)-4-tert-Butoxy-1-(4-chloro-phenyl)-pyrrolidine-2-carboxylic acid {3-[1,1-dimethyl-2-(tetrahydro-pyran-2-yloxy)-ethyl]-isoxazol-5-yl}-amide (123 mg, 0.237 mmol) and pyridinium p-toluenesulfonate (20 mg, 0.047 mmol) in ethanol (2 mL) is heated at 55° C. for 42 hours. After this time, the reaction mixture is concentrated in vacuo. Purification by flash chromatography on silica gel using ethyl acetate/hexanes provides the title compound, m/z 436 [M+H+].

reactant | (2S,4R)-4-tert-Butoxy-1-(4-chloro-phenyl)-pyrrolidine-2-carboxylic acid {3-[1,1-dimethyl-2-(tetrahydro-pyran-2-yloxy)-ethyl]-isoxazol-5-yl}-amide | 0.237 mmol, 123 mg | CC(COC1OCCCC1)(C)C1=NOC(=C1)NC(=O)[C@H]1N(C[C@@H](C1)OC(C)(C)C)C1=CC=C(C=C1)Cl | C27H38ClN3O5
reactant | pyridinium p-toluenesulfonate | 0.047 mmol, 20 mg | C1(=CC=C(C=C1)S(=O)(=O)[O-])C.[NH+]1=CC=CC=C1
solvent | ethanol | 2 mL | C(C)O | C2H6O
product | (2S,4R)-4-tert-Butoxy-1-(4-chloro-phenyl)-pyrrolidine-2-carboxylic acid [3-(2-hydroxy-1,1-dimethyl-ethyl)-isoxazol-5-yl]-amide | OCC(C)(C)C1=NOC(=C1)NC(=O)[C@H]1N(C[C@@H](C1)OC(C)(C)C)C1=CC=C(C=C1)Cl | C22H30ClN3O4
